US04650855
Example 1: Preparation of antibiotic L 17046 from teicoplanin
Teicoplanin A2 (10 g) is added to 1 N hydrochloric acid (150 ml) preheated to 80° C. while stirring. After about 45 minutes the reaction mixture is cooled to 0°-5° C. and 37% hydrochloric acid (30 ml) is added. Stirring is maintained for about 10 minutes, after which the precipitated solid is recovered by filtration, washed with 20 ml of 2 N HCl, then with ethyl ether, and dried overnight over potassium hydroxide pellets at room temperature, resulting in the crude product of the title (8.3 g).

reactant | Teicoplanin A2 | 10 g | CCCCC/C=C/CCC(=O)NC1C(C(C(OC1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)C(C6C(=O)NC(C7=CC(=CC(=C7C8=C(C=CC(=C8)C(C(=O)N6)NC(=O)C4NC(=O)C9C1=CC(=C(C(=C1)O)C)OC1=C(C=CC(=C1)C(C(=O)NC(C(C1=CC(=C(O3)C=C1)Cl)O)C(=O)N9)N)O)O)OC1C(C(C(C(O1)CO)O)O)O)O)C(=O)OC)OC1C(C(C(C(O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C90H99Cl2N9O34
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | hydrochloric acid | 1 N, 150 ml | Cl | ClH
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
